US05688946
In an analogous manner to that described in Example 4, by condensing N-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamoyl]-1-(2,4-dinitrophenyl)-L-histidine with (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol there is obtained (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-1-(2,4-dinitrophenyl)imidazole-4-propionamide as a yellow solid; MS: 797 (M+H)+.

reactant | N-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamoyl]-1-(2,4-dinitrophenyl)-L-histidine | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@@H](CC1=CN(C=N1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C(=O)O)CC1=CC=CC=C1 | C26H29N5O9S
reactant | (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol | N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1 | C13H25NO2
product | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-1-(2,4-dinitrophenyl)imidazole-4-propionamide | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])CC1=CC=CC=C1 | C39H52N6O10S
